US05958942
iii) Synthesis of 4,5-dihydro-4-(4-pentafluoropropion amidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylene-dihydrochloride
To a solution of 2230 mg (5.93 mmol) of 4,5-dihydro-4-(4-pentafluoropropionamidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylene in 35 ml of ethanol was added 1.22 ml (14.31 mmol) of 12N hydrochloric acid. The mixture was stirred for one hour at room temperature. The resulting precipitates was collected by filtration, washed with a small volume of ethanol and ether, and dried to afford 2120 mg of the desired compound (76.9%, white crystals).

reactant | 4,5-dihydro-4-(4-pentafluoropropionamidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylene | 5.93 mmol, 2230 mg | FC(C(=O)NCCCCN1CC2=CN=C3C=CC=C(C1)N32)(C(F)(F)F)F | C16H17F5N4O
reactant | hydrochloric acid | 14.31 mmol, 12N, 1.22 ml | Cl | ClH
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-(4-pentafluoropropion amidobutan-1-yl)-3H-1,4,8b-triazaacenaphthylene-dihydrochloride | 2120 mg, 76.9% | Cl.Cl.FC(C(=O)NCCCCN1CC2=CN=C3C=CC=C(C1)N32)(C(F)(F)F)F | InChI=1S/C16H17F5N4O.2ClH/c17-15(18,16(19,20)21)14(26)22-6-1-2-7-24-9-11-4-3-5-13-23-8-12(10-24)25(11)13;;/h3-5,8H,1-2,6-7,9-10H2,(H,22,26);2*1H
